US07563805B2
Ethyl 1-benzyloxycarbonyl-4-methoxy-3-methylpyrrolidine-3-carboxylate
To a solution of ethyl 1-benzyloxycarbonyl-4-hydroxy-3-methylpyrrolidine-3-carboxylate (0.55 g, 1.8 mmol) in N,N-dimethylformamide (10 mL), methyl iodide (0.22 mL, 3.6 mmol) and sodium hydride (55% in oil, 117 mg, 2.7 mmol) were added in an ice bath, and the mixture was stirred at room temperature for 1 hour. Ice water was added to the reaction mixture, and the mixture was extracted with ethyl acetate (20 mL×3). The extract was washed with water (20 mL×3) and saturated aqueous solution of sodium chloride (20 mL) in this order, and dried with anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate, 2:1) to obtain 0.38 g (66%) of the title compound as a pale yellow oily product.

reactant | ethyl 1-benzyloxycarbonyl-4-hydroxy-3-methylpyrrolidine-3-carboxylate | 1.8 mmol, 0.55 g | C(C1=CC=CC=C1)OC(=O)N1CC(C(C1)O)(C(=O)OCC)C | C16H21NO5
reactant | methyl iodide | 3.6 mmol, 0.22 mL | CI | CH3I
reactant | sodium hydride | 2.7 mmol, 117 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | Ethyl 1-benzyloxycarbonyl-4-methoxy-3-methylpyrrolidine-3-carboxylate | 0.38 g, 66% | C(C1=CC=CC=C1)OC(=O)N1CC(C(C1)OC)(C(=O)OCC)C | C17H23NO5
